US07776857B2
Step 5: 8-chloro-3-methoxy-1,5-naphthyridine
A two-necked RBF equipped with an air condenser (protected with CaCl2 guard tube) was charged with 7-Methoxy-1H-[1,5]naphthyridin-4-one (13 g) and POCl3(65 mL). The reaction mixture was allowed to reflux at 120° C. for 12 h. The POCl3 was removed in vacuo and azeotroped twice with toluene. EtOAc (75 mL) was added and the reaction mixture was stirred at 50-60° C. for 15-20 min. EtOAc removed separated by decantation. The organic layers were combined and concentrated. The obtained crude was dissolved in EtOAc (50 ml) and a washed with satd. aqueous sodium bicarbonate. The organic layer was dried over Na2SO4 and concentrated. The resulting solids were suspended in hexane, stirred for 15 min, filtered and dried under vacuum.

reactant | CaCl2 | [Cl-].[Cl-].[Ca+2]
reactant | 7-Methoxy-1H-[1,5]naphthyridin-4-one | 13 g | COC1=CN=C2C(C=CNC2=C1)=O | C9H8N2O2
reactant | POCl3 | 65 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | EtOAc | 50 ml | CCOC(=O)C | C4H8O2
product | 8-chloro-3-methoxy-1,5-naphthyridine | ClC=1C=CN=C2C=C(C=NC12)OC | C9H7ClN2O
